US05084466
1.2 ml of triethylamine and 3 ml of benzyl chloroformate (50% in toluene) were added to a solution of 675 mg of N-[p-[2-(p-cyanobenzamido)ethyl]phenyl]glycine methyl ester in 15 ml of chloroform. The reaction mixture was maintained at 50° C. overnight. After working up and chromatography on silica gel with ether/petroleum ether 2:1, 500 mg of crystalline N-benzyl-N-[p-[2-(p-cyanobenzamido)ethyl]phenyl]glycine methyl ester, melting point 123°-124° C., were isolated.

reactant | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 3 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | N-[p-[2-(p-cyanobenzamido)ethyl]phenyl]glycine methyl ester | 675 mg | COC(CNC1=CC=C(C=C1)CCNC(C1=CC=C(C=C1)C#N)=O)=O | C19H19N3O3
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | N-benzyl-N-[p-[2-(p-cyanobenzamido)ethyl]phenyl]glycine methyl ester | 500 mg | COC(CN(C1=CC=C(C=C1)CCNC(C1=CC=C(C=C1)C#N)=O)CC1=CC=CC=C1)=O | C26H25N3O3
